US09290496B2
Step 2: Preparation of 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9-methyl -9H-purin-6-amine
To a vigorously stirred suspension of 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine (7.25 g, 27.5 mmol, 1.00 eq) and potassium carbonate (7.61 g, 55.1 mmol, 2.00 eq) in 1,4-dioxane (92.0 mL), was added dimethyl sulfate (2.90 mL, 30.3 mmol, 1.10 eq) in a dropwise manner over 3 min. After 4 hr, additional portions of 1,4-dioxane (50.0 mL), potassium carbonate (3.80 g, 27.5 mmol, 1.00 eq), and dimethyl sulfate (1.00 mL, 10.4 mmol, 0.30 eq) were added to the reaction mixture. After a further 16 hr, the reaction mixture was concentrated in vacuo, diluted with water (120 mL), and stirred at ambient temperature for 1 hr. The resulting solids were filtered, washed with water (20 mL), and dried for 16 hr at 60° C. to give the title compound (6.42 g, 84% yield, >95% purity) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.23 (br. s., 1 H) 8.13 (br. s., 1 H) 7.67 (s, 1 H) 3.78 (s, 3 H) 3.70 (s, 3 H) 3.69 (br. s., 3 H). m/z (APCI+) for C11H13FN7O 278.2 (M+H)+.

reactant | 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9H-purin-6-amine | 27.5 mmol, 7.25 g, 1.00 eq | FC1=NC(=C2N=CNC2=N1)NC=1C(=NN(C1)C)OC | C10H10FN7O
reactant | potassium carbonate | 55.1 mmol, 7.61 g, 2.00 eq | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 30.3 mmol, 2.90 mL, 1.10 eq | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 27.5 mmol, 3.80 g, 1.00 eq | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 10.4 mmol, 1.00 mL, 0.30 eq | S(=O)(=O)(OC)OC | C2H6O4S
solvent | 1,4-dioxane | 92.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50.0 mL | O1CCOCC1 | C4H8O2
product | 2-fluoro-N-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-9-methyl -9H-purin-6-amine | 6.42 g, 84% yield | FC1=NC(=C2N=CN(C2=N1)C)NC=1C(=NN(C1)C)OC | C11H12FN7O
